US07691842B2
Step 4: Preparation of (5R,6Z)-6-[(5-methyl-7,8-dihydro-6H-cyclopenta[e][1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methylene]-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid
4-nitrobenzyl (5R)-6-[(acetyloxy)(5-methyl-7,8-dihydro-6H-cyclopenta[e][1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (200 mg, 0.31 mmol) was dissolved in THF (20 mL) and acetonitrile (20 mL) and phosphate buffer (6.5 pH) (20 ml) and hydrogenated over Pd/C (10%) (200 mg) under 40 psi pressure. At the end, reaction mixture was filtered, cooled to 3° C., and 0.1 N NaOH was added to adjust the pH to 8.5. The filtrate was washed with ethyl acetate and the aqueous layer was separated. The aqueous layer was concentrated under high vacuum at 35° C. to give a yellow precipitate. The product was purified by HP21 resin reverse phase column chromatography. Initially the column was eluted with deionized water (2 L) and latter with 10% acetonitrile:water. The fractions containing the product were collected and concentrated under reduced pressure at room temperature. The yellow solid was washed with acetone, filtered and dried. Yield: 15 mg, 13%; as yellow crystals; mp 250° C. (Dec); (M+H+Na) 378. 1H NMR (DMSO-d6) δ 6.80 (s, 1H), 6.76 (s, 1H), 6.25 (s, 1H), 3.24 (m, 2H), 2.96 (m, 2H), 2.49 (s, 3H), 2.25 (m, 2H).

reactant | 4-nitrobenzyl (5R)-6-[(acetyloxy)(5-methyl-7,8-dihydro-6H-cyclopenta[e][1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.31 mmol, 200 mg | C(C)(=O)OC(C1([C@H]2SC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Br)C1=NN2C(N=C(C3=C2CCC3)C)=N1 | C25H21BrN6O7S
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | phosphate | 20 ml | P(=O)([O-])([O-])[O-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (5R,6Z)-6-[(5-methyl-7,8-dihydro-6H-cyclopenta[e][1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methylene]-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | CC1=NC=2N(C3=C1CCC3)N=C(N2)\C=C\2/[C@H]3SC=C(N3C2=O)C(=O)O | C16H13N5O3S
